US08808703B2
Step 1: diethyl 3-(2-bromoethoxy)-1,1-difluoropropylphosphonate
A solution of diisopropylamine (2 eq) in dry THF (1 M) was cooled in an acetone-dry ice bath. To the solution was added n-butyllithium (1.5 M in cyclohexane, 1.6 eq) in dropwised fashion via syringe. The reaction mixture was warmed up in an ice-water bath upon completion of the addition, and stirred for 30 minutes. The reaction mixture was then cooled back down to −78° C. in the dry ice-acetone bath, and was treated with a solution of diethyl difluoromethylphosphonate (1 eq) in HMPA (1:1 v/v) via syringe. The reaction turned dark brown from pale yellow instantly. The stirring was allowed to proceed for an hour. To the above reaction mixture, a cooled solution of 1-bromo-2-(2-bromoethoxy)ethane (3 eq) in THF (0.6 M) was added quickly through a syringe, and the reaction was allowed to stir for another 3 hours before quenching with 1 N HCl. The reaction mixture was warmed to room temperature, and pH was adjusted to <4 with 1 N HCl, and was extracted with ethyl acetate three times. The combined organic phases were washed with brine, dried over anhydrous Na2SO4, and concentrated en vaccuo. The mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-70% EtOAc/Hex followed by reverse phase high performance liquid chromatography (HPLC) with C18 column eluting with a gradient of 20-50% MeCN (0.035% TFA) in H2O (0.05% TFA) to afford the product as a pale yellow oil.

reactant | diisopropylamine | 2 eq | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.5 M, 1.6 eq | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | diethyl difluoromethylphosphonate | 1 eq | FC(F)P(OCC)(OCC)=O | C5H11F2O3P
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 3 eq | BrCCOCCBr | C4H8Br2O
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 0.6 M | C1CCOC1 | C4H8O
product | diethyl 3-(2-bromoethoxy)-1,1-difluoropropylphosphonate | BrCCOCCC(F)(F)P(OCC)(OCC)=O | C9H18BrF2O4P
